US08877742B2
6-bromo-1-(2,2,2-trifluoroethyl)indoline
A solution of BH3.THF (1M in THF) (6.12 mL, 6.12 mmol) was added to a solution of 1-(6-bromoindolin-1-yl)-2,2,2-trifluoroethanone (D74) (900 mg, 3.06 mmol) in dry THF (2.0 mL) stirred at 0° C. The mixture was then heated at reflux for overnight (ca. 16 hours). The reaction mixture was quenched with aqueous ammonium chloride, and was partitioned between water (25 mL) and ethyl acetate (100 mL). The aqueous phase was separated and extracted with additional ethyl acetate (100 mL). The organic extracts were combined, washed with brine (25 mL), dried with anhydrous magnesium sulfate, filtered and evaporated to dryness. The residues were purified on silica eluting with cyclohexane and ethyl acetate (0-100%). The appropriate fractions were combined and evaporated to dryness producing title compound (670 mg). LCMS (A): m/z (M+H)+ 280/282, C10H9BrF3N requires 279/281 (acidic).

reactant | BH3.THF | 6.12 mmol, 1M, 6.12 mL | B.C1CCOC1
reactant | 1-(6-bromoindolin-1-yl)-2,2,2-trifluoroethanone | 3.06 mmol, 900 mg | BrC1=CC=C2CCN(C2=C1)C(C(F)(F)F)=O | C10H7BrF3NO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 6-bromo-1-(2,2,2-trifluoroethyl)indoline | 670 mg | BrC1=CC=C2CCN(C2=C1)CC(F)(F)F | C10H9BrF3N
